US05656629
Sodium (0.68 g) was dissolved in ethanol and 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (3.0 g, 13.5 mmol), followed by ethyl glycolate (2.8 g, 27 mmol) were added. The reaction mixture was refluxed overnight, the ethanol was stripped and water, followed by 2N HCl were added to the residue. A precipitate formed which was collected by filtration, washed with saturated NaHCO3, and then water. The product was recrystallized from ethyl acetate, then ether to afford 0.83 g of 1-cyclopentyl-3-ethyl-6-(hydroxymethyl)pyrazolo[3,4-d]pyrimidin-4-one, m.p. 183°-184° C.

reactant | Sodium | 0.68 g | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 13.5 mmol, 3.0 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | ethyl glycolate | 27 mmol, 2.8 g | C(CO)(=O)OCC | C4H8O3
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-cyclopentyl-3-ethyl-6-(hydroxymethyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.83 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CO)CC | C13H18N4O2
